US07078540B1
4-(Ethoxycarbonyl)-5,6-dihydro-2H-pyran-3-sulfonic acid (27.5 g) was dissolved in thionyl chloride (82.6 ml) and the mixture was stirred at room temperature →85° C. for 3 h. The reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in ethyl acetate (100 ml). The obtained solution was partitioned by adding diluted brine (120 ml). The ethyl acetate layer was washed twice with saturated brine (50 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:ethyl acetate/hexane=1/7→1/5). The objective product was concentrated under reduced pressure and the crystals produced by freezing were washed with hexane to give ethyl 5-(chlorosulfonyl)-3,6-dihydro-2H-pyran-4-carboxylate (7.81 g) as pale-yellow crystals.

reactant | 4-(Ethoxycarbonyl)-5,6-dihydro-2H-pyran-3-sulfonic acid | 27.5 g | C(C)OC(=O)C1=C(COCC1)S(=O)(=O)O | C8H12O6S
reactant | thionyl chloride | 82.6 ml | S(=O)(Cl)Cl | Cl2OS
product | ethyl 5-(chlorosulfonyl)-3,6-dihydro-2H-pyran-4-carboxylate | 7.81 g | ClS(=O)(=O)C1=C(CCOC1)C(=O)OCC | C8H11ClO5S
